US07071182B2
2-(3-phenoxyphenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]acetamide
1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine and (3-phenoxy-phenyl)-acetic acid were processed as described in Example 17 to provide the title compound. MS (DCI/NH3) MS m/z 441 (M+H)+; 1H NMR (500 MHz, DMSO-d6) δ ppm 1.83 (m, 2 H), 1.99 (m, 2 H), 3.04 (m, 2 H), 3.52 (m, 2 H), 3.65 (s, 2 H), 3.71 (q, J=5.61 Hz, 2 H), 4.74 (t, J=6.24 Hz, 2 H), 6.89 (m, 1 H), 7.02 (m, 3 H), 7.14 (m, 2 H), 7.37 (m, 3 H), 7.51 (m, 1 H), 7.68 (m, 1 H), 8.12 (m, 2 H), 9.68 (br s, N H).

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | N1(CCCC1)CCN1N=CC2=CC(=CC=C12)N | C13H18N4
reactant | (3-phenoxy-phenyl)-acetic acid | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)O | C14H12O3
product | 2-(3-phenoxyphenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]acetamide | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)NC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C27H28N4O2
